US09034882B2
Methyl 2-(2-(3-(benzyloxy)phenyl)-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate
To a stirred solution of KHMDS (0.5 M in toluene, 1.50 mL, 0.78 mmol) in THF (12 mL) at −78° C. was added a solution of methyl 2-(2-(3-(benzyloxy)phenyl)-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.35 g, 0.83 mmol) in THF (12 mL) dropwise over 40 min. The mixture was stirred at −78° C. for 30 min. A solution of 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine (0.33 g, 1.25 mmol) in THF (24 mL) was added over 20 min and the reaction mixture was stirred for additional 30 min at −78° C. The reaction mixture was quenched with saturated NH4Cl aqueous solution (2 mL). The reaction mixture was allowed to warm to room temperature and then diluted with ethyl acetate (100 mL). The organic phase was washed with water and brine and dried with sodium sulfate. The solvent was evaporated. Purification by silica gel chromatography provided the title compound (80 mg, 22%). Used as is in the next step.

reactant | KHMDS | 0.78 mmol, 0.5 M, 1.50 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methyl 2-(2-(3-(benzyloxy)phenyl)-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.83 mmol, 0.35 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2Cl)CC(=O)OC)C)=C1 | C23H20ClN3O3
reactant | 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine | 1.25 mmol, 0.33 g | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | Methyl 2-(2-(3-(benzyloxy)phenyl)-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 80 mg, 22% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2Cl)C(C(=O)OC)O)C)=C1 | C23H20ClN3O4
